US08859574B2
To a mixture of 4-(4-amino-2,5-dimethylphenyl)-1-(4-methoxybenzyl)piperidin-2-one (23 mg, 0.094 mmol) and 2,5-dichloro-N-(5-methyl-1H-pyrazol-3-yl)pyrimidin-4-amine (29 mg, 0.086 mmol) in iPrOH (1 mL) was added HCl (60 uL, 4N in dioxane). The reaction vessel was then sealed and heated to 130° C. for 4 hr. After cooling to room temperature, the mixture was treated with saturated NaHCO3 aqueous solution (3 mL) and extracted with EtOAc (3×4 mL). The organic layers were combined and concentrated. The residue was purified by flash column chromatography (silica gel, gradient 0˜10% MeOH/CH2Cl2) to provide 4-(4-(5-chloro-4-(5-methyl-1H-pyrazol-3-ylamino)pyrimidin-2-ylamino)-2,5-dimethylphenyl)-1-(4-methoxybenzyl)piperidin-2-one. ESMS m/z 546.2 (M+H+).

reactant | 4-(4-amino-2,5-dimethylphenyl)-1-(4-methoxybenzyl)piperidin-2-one | 0.094 mmol, 23 mg | NC1=CC(=C(C=C1C)C1CC(N(CC1)CC1=CC=C(C=C1)OC)=O)C | C21H26N2O2
reactant | 2,5-dichloro-N-(5-methyl-1H-pyrazol-3-yl)pyrimidin-4-amine | 0.086 mmol, 29 mg | ClC1=NC=C(C(=N1)NC1=NNC(=C1)C)Cl | C8H7Cl2N5
reactant | HCl | 4N, 60 uL | Cl | ClH
reactant | NaHCO3 | 3 mL | C(=O)(O)[O-].[Na+]
solvent | iPrOH | 1 mL | CC(C)O | C3H8O
product | 4-(4-(5-chloro-4-(5-methyl-1H-pyrazol-3-ylamino)pyrimidin-2-ylamino)-2,5-dimethylphenyl)-1-(4-methoxybenzyl)piperidin-2-one | ClC=1C(=NC(=NC1)NC1=CC(=C(C=C1C)C1CC(N(CC1)CC1=CC=C(C=C1)OC)=O)C)NC1=NNC(=C1)C | C29H32ClN7O2
